US07671043B2
7A: N′-{[4-(Hydroxymethyl)benzoyl]oxy}-4-isobutylbenzenecarboximidamide
1,1′-Carbonydiimidazole (2.37 g, 14.6 mmol) was added to a solution of 4-hydroxymethylbenzoic acid (2.00 g, 13.1 mmol) and DMF (50 mL) and stirred at room temperature for 1 hour. N′-Hydroxy-4-isobutylbenzamidine (2.54 g, 13.2 mmol) was added and stirred for 16 hours. The reaction mixture was diluted with water, causing a white solid to precipitate, filtered, washed with water, and dried to give the title compound (3.08 g, 72% yield) as a crude white solid.

reactant | 4-hydroxymethylbenzoic acid | 13.1 mmol, 2.00 g | OCC1=CC=C(C(=O)O)C=C1 | C8H8O3
reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
reactant | N′-Hydroxy-4-isobutylbenzamidine | 13.2 mmol, 2.54 g | ON=C(C1=CC=C(C=C1)CC(C)C)N | C11H16N2O
solvent | water | O | H2O
product | N′-{[4-(Hydroxymethyl)benzoyl]oxy}-4-isobutylbenzenecarboximidamide | 3.08 g, 72% yield | OCC1=CC=C(C(=O)ON=C(N)C2=CC=C(C=C2)CC(C)C)C=C1 | C19H22N2O3
